US04766133
A solution of 23 ml of trichloroacetyl chloride in 50 ml of isopropyl acetate is added dropwise during 1 hour to a solution, boiling at reflux under argon, of 13 g of 2,3-dimethyl-4-propoxypyridine 1-oxide in 250 ml of isopropyl acetate. At the beginning the reaction exhibits a very exothermic character. During the addition of the first mol equivalent of trichloroacetyl chloride a vigorous evolution of carbon dioxide is observed. The solution is subsequently stirred under argon for a further 15 minutes at reflux temperature (oil-bath 130° ), cooled to 10° with ice. treated with 100 ml of ether and stirred for 1 hour while cooling with ice. The crystalline precipitate which separates during the entire reaction is filtered off under suction and washed with ice-cold isopropyl acetate and ether. Crystalline reaction product can again be obtained from the mother liquor. The 2-chloromethyl-3-methyl-4-propoxypyridine hydrochloride obtained is processed directly.

reactant | trichloroacetyl chloride | 23 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 2,3-dimethyl-4-propoxypyridine 1-oxide | 13 g | CC1=[N+](C=CC(=C1C)OCCC)[O-] | C10H15NO2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | isopropyl acetate | 50 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | isopropyl acetate | 250 ml | C(C)(=O)OC(C)C | C5H10O2
product | 2-chloromethyl-3-methyl-4-propoxypyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)OCCC | InChI=1S/C10H14ClNO.ClH/c1-3-6-13-10-4-5-12-9(7-11)8(10)2;/h4-5H,3,6-7H2,1-2H3;1H
